US04217453
Phosphorus trichloride (1 mmol) is added to a solution of benzyl 6-azido-1-azabicyclo[3.2.0]heptan-3,7-dione-2-carboxylate (0.5 mmol) in anhydrous dimethylformamide (2.5 ml) and the mixture is left to stand at room temperature. After 5 hr, the mixture is diluted with toluene, washed with water, 1 N hydrochloric acid, 5% sodium bicarbonate solution, and brine, dried over magnesium sulfate, and filtered. Evaporation of the solvent under vacuum yields benzyl 6-azido-3-chloro-1-azabicyclo[3.2.0]-hept-2-en-7-one-2-carboxylate.

reactant | Phosphorus trichloride | 1 mmol | P(Cl)(Cl)Cl | Cl3P
reactant | benzyl 6-azido-1-azabicyclo[3.2.0]heptan-3,7-dione-2-carboxylate | 0.5 mmol | N(=[N+]=[N-])C1C2CC(C(N2C1=O)C(=O)OCC1=CC=CC=C1)=O | C14H12N4O4
solvent | dimethylformamide | 2.5 ml | CN(C=O)C | C3H7NO
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | benzyl 6-azido-3-chloro-1-azabicyclo[3.2.0]-hept-2-en-7-one-2-carboxylate | N(=[N+]=[N-])C1C2CC(=C(N2C1=O)C(=O)OCC1=CC=CC=C1)Cl | C14H11ClN4O3
